US08134001B2
In a manner similar to the method described in Example 50a, 5-bromo-2-fluorobenzaldehyde (4.1 g, 20 mmol) (Alfa) was reacted with 4-fluorophenol (2.5 g, 22 mmol)(Aldrich) and K2CO3 in N,N-dimethylacetamide to give 5-bromo-2-(4-fluoro-phenoxy)-benzaldehyde as a yellow solid (Yield 5.8 g, 97%).

reactant | 5-bromo-2-fluorobenzaldehyde | 20 mmol, 4.1 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 4-fluorophenol | 22 mmol, 2.5 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-bromo-2-(4-fluoro-phenoxy)-benzaldehyde | Yield 5.8 g, 97% | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)F | C13H8BrFO2
